US05821261
Step B: (4S)-1-(tert-Butyloxycarbonyl)-4-hydroxy-L-Proline tert-Butyl Ester
A solution of (4S)-1-(tert-butyloxycarbonyl)-4-(p-nitrobenzoyloxy)-L-proline tert-butyl ester (575 mg, 1.32 mmol) in ethanol (13 mL) was treated with 0.4N sodium hydroxide (4.3 mL, 1.72 mmol) for 18 hours at room temperature. The solution was neutralized with several drops of glacial acetic acid, diluted with ethyl acetate (100 mL), washed with water (2×), saturated brine solution, dried (Na2SO4), and evaporated. The residue was subjected to flash silica gel chromatography eluting with 5% acetone/dichloromethane. The title compound (313 mg) was obtained contaminated with some p-nitrobenzoic acid and used without further purification in the next step.

reactant | (4S)-1-(tert-butyloxycarbonyl)-4-(p-nitrobenzoyloxy)-L-proline tert-butyl ester | 1.32 mmol, 575 mg | C(C)(C)(C)OC([C@H]1N(C[C@H](C1)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C(=O)OC(C)(C)C)=O | C21H28N2O8
reactant | sodium hydroxide | 1.72 mmol, 0.4N, 4.3 mL | [OH-].[Na+]
solvent | ethanol | 13 mL | C(C)O | C2H6O
catalyst | acetic acid | several drops | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (4S)-1-(tert-Butyloxycarbonyl)-4-hydroxy-L-Proline tert-Butyl Ester | 313 mg | C(C)(C)(C)OC([C@H]1N(C[C@H](C1)O)C(=O)OC(C)(C)C)=O | C14H25NO5
